US06995179B2
2) Synthesis of 5-(3-phenyl-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate:
493 mg (4.0 mmol) of (2-cyanoethyl) propiolate, 745 ml (4.0 mmol) of (3-phenyl-2-propene-1-yl) propiolate, 0.453 ml (4.0 mmol) of 3-chlorobenzaldehyde and 617 mg (8.0 mmol) of ammonium acetate were heated at 60° C. under stirring in 8 ml of acetic acid for 12 hours. Acetic acid was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=1/1) to obtain the title compound.

reactant | (2-cyanoethyl) propiolate | 4.0 mmol, 493 mg | C(C#C)(=O)OCCC#N | C6H5NO2
reactant | (3-phenyl-2-propene-1-yl) propiolate | 4.0 mmol, 745 ml | C(C#C)(=O)OCC=CC1=CC=CC=C1 | C12H10O2
reactant | 3-chlorobenzaldehyde | 4.0 mmol, 0.453 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | ammonium acetate | 8.0 mmol, 617 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 5-(3-phenyl-2-propene-1-yl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=CNC=C1C(=O)OCC=CC1=CC=CC=C1)C(=O)OCCC#N | C25H21ClN2O4
